US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(4-(hydroxymethyl)piperidin-1-yl)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
The title compound was prepared from tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aziridin-1-ylmethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate following the procedure described above for the synthesis of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(4-(methylsulfonyl)piperazin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid, using piperidin-4-ylmethanol as reagent in step 1. The product was isolated as a white solid (5 mg, 16.7%). LCMS: m/e 685.5 (MH+), 2.33 min (method 9). 1H NMR (400 MHz, METHANOL-d4) δ 7.90 (d, J=8.0 Hz, 2H), 7.20 (d, J=8.0 Hz, 2H), 5.28 (d, J=4.5 Hz, 1H), 4.74 (br. s., 1H), 4.63 (br. s., 1H), 3.74-3.38 (m, 8H), 3.07 (br. s., 2H), 2.98-2.85 (m, 2H), 2.48 (br. s., 1H), 2.21-1.93 (m, 4H), 1.90-1.64 (m, 11H), 1.63-1.40 (m, 10H), 1.39-1.24 (m, 4H), 1.23-1.09 (m, 4H), 1.04 (m, 6H), 0.94 (m, 6H).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aziridin-1-ylmethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | N1(CC1)C[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C43H63NO2
reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(4-(methylsulfonyl)piperazin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC3)C(=C)C)CNCCN3CCN(CC3)S(=O)(=O)C | C44H67N3O4S
reactant | piperidin-4-ylmethanol | N1CCC(CC1)CO | C6H13NO
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(4-(hydroxymethyl)piperidin-1-yl)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | OCC1CCN(CC1)CCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C45H68N2O3
